US06184225B2
A solution of 4-(5-acetoxy-4-chloro-2-fluoroanilino)-7-benzyloxy-6-methoxyquinazoline (250 mg, 0.54 mmol) in methanol (5 ml), trichloromethane (5 ml) and DMF (1 ml) was stirred under hydrogen at 1 atmosphere with 5% palladium-on-charcoal catalyst (100 mg) for 4 hours. The catalyst was removed by filtration through diatomaceous earth and the solvent removed by evaporation. The residue was dissolved in ethyl acetate, washed with water and brine, and dried (MgSO4). Most of the solvent was removed by evaporation, the mixture was cooled and hexane added to obtain solid product which was collected by filtration, washed with hexane/ethyl acetate and dried to give 4-(5-acetoxy-4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (170 mg, 45%).

reactant | 4-(5-acetoxy-4-chloro-2-fluoroanilino)-7-benzyloxy-6-methoxyquinazoline | 0.54 mmol, 250 mg | C(C)(=O)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC=CC=C2)C1)F)Cl | C24H19ClFN3O4
solvent | methanol | 5 ml | CO | CH4O
solvent | trichloromethane | 5 ml | ClC(Cl)Cl | CHCl3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | palladium-on-charcoal | 100 mg | [Pd] | Pd
product | 4-(5-acetoxy-4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 170 mg, 45% | C(C)(=O)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C1)F)Cl | C17H13ClFN3O4
